US07700655B2
(2) 2-Acetoxy-5-chloro-N-(1-methoxynaphthalen-3-yl)benzamide (Compound No. 34)
Using 2-acetoxy-5-chlorobenzoic acid and 4-methoxy-2-naphthylamine as the raw materials, the same operation as the Example 24 gave the title compound.

reactant | 2-acetoxy-5-chlorobenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Cl | C9H7ClO4
reactant | 4-methoxy-2-naphthylamine | COC1=CC(=CC2=CC=CC=C12)N | C11H11NO
product | 2-Acetoxy-5-chloro-N-(1-methoxynaphthalen-3-yl)benzamide | Yield: 39.9% | C(C)(=O)OC1=C(C(=O)NC=2C=C(C3=CC=CC=C3C2)OC)C=C(C=C1)Cl | C20H16ClNO4
